US08217029B2
180.i) 4-(4-Amino-piperidin-1-yl)-quinoline-6-carbonitrile
Starting from 4-bromo-6-cyanoquinoline (commercial) and piperidin-4-yl-carbamic acid tert-butyl ester (commercial) the title compound was prepared according to procedure F followed by procedure E and was isolated as a yellow solid (382 mg, 69% over two steps).

reactant | 4-bromo-6-cyanoquinoline | BrC1=CC=NC2=CC=C(C=C12)C#N | C10H5BrN2
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | 4-(4-Amino-piperidin-1-yl)-quinoline-6-carbonitrile | NC1CCN(CC1)C1=CC=NC2=CC=C(C=C12)C#N | C15H16N4
